US05108747
Step A2 : 4-Methylthio-3-[1-(p-nitrobenzyloxycarbonyloxy)ethyl]-azetidin-2-one
1.17 g (16.7 mmol) of methyl mercaptan Na salt are added at 0° C. to a solution of 4.48 g (11.1 mmol) of 4-(2-hydroxyethylsulphonyl)-3-[1-(p-nitrobenzyloxycarbonyloxy)-ethyl]-azetidin-2-one in 11 ml of acetonitrile and 11 ml of H2O and the mixture is stirred at 0° C. during the course of 20 minutes. The reaction mixture is diluted with 100 ml of methylene chloride and 25 ml of H2O and the aqueous phase is extracted three times with 25 ml each of methylene chloride after separating off the organic phase. The purified organic phases are dried over MgSo4 and filtered, and the solvent is removed in vacuo, 3.80 g of title compound being obtained as a slightly yellowish non-crystalline compound. NMR spectrum in CDCl3 : δ=1.45 (d, J=7 Hz, 3 H), 2.12 (s, 3 H), 3.3 (dd, J=Hz, J=2 Hz), 4.70 (d, J=2 Hz, 1 H), 5.12 (m, 1 H), 5.20 (s, 2 H), 6.45 (wide s, 1 H), 7.50 (d, J=8.5 Hz, 2 H), 820 (d, J=8.5 Hz, 2 H).

reactant | 4-(2-hydroxyethylsulphonyl)-3-[1-(p-nitrobenzyloxycarbonyloxy)-ethyl]-azetidin-2-one | 11.1 mmol, 4.48 g | OCCS(=O)(=O)C1C(C(N1)=O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H18N2O9S
solvent | acetonitrile | 11 ml | C(C)#N | C2H3N
solvent | H2O | 11 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 25 ml | O | H2O
product | 4-Methylthio-3-[1-(p-nitrobenzyloxycarbonyloxy)ethyl]-azetidin-2-one | CSC1C(C(N1)=O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C14H16N2O6S
